US04309211
Ethyl 2-{4-[(7-bromo-1,2,4-benzotriazin-3-yl)oxy]phenoxy}propionate (15)
A mixture of 7-bromo-3-chloro-1,2,4-benzotriazine (1.93 g), ethyl 2-(4-hydroxyphenoxy)propionate (1.69 g), anhydrous potassium carbonate (1.20 g) and methyl ethyl ketone (50 ml) was heated under reflux overnight. The solvent was removed by distillation under reduced pressure and the residue was partitioned between water and dichloromethane. The organic layer was separated, dried (over anhydrous magnesium sulfate) and the solvent was removed by distillation under reduced pressure to give an oil. The crude product was purified by chromatography over silica gel (eluent dichloromethane) and the product was recrystallised from aqueous ethanol to give the title compound (1.16 g) as yellow crystals, mp 104° C.

reactant | 7-bromo-3-chloro-1,2,4-benzotriazine | 1.93 g | BrC1=CC2=C(N=C(N=N2)Cl)C=C1 | C7H3BrClN3
reactant | ethyl 2-(4-hydroxyphenoxy)propionate | 1.69 g | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
reactant | potassium carbonate | 1.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | Ethyl 2-{4-[(7-bromo-1,2,4-benzotriazin-3-yl)oxy]phenoxy}propionate | 1.16 g | BrC1=CC2=C(N=C(N=N2)OC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C18H16BrN3O4
